US06028195
1-[(5-Acetyl-2-methoxy-6-methylpyridin-3-yl)aminothiocarbonyl]-4-(3,5-dimethylphenyl)piperazine
Phenyl N-(5-acetyl-2-methoxy-6-methylpyridin-3-yl)thiocarbamate and 1-(3,5-dimethylphenyl)piperazine were reacted by the same way with the example 22 to obtain the titled compound.

reactant | Phenyl N-(5-acetyl-2-methoxy-6-methylpyridin-3-yl)thiocarbamate | C(C)(=O)C=1C=C(C(=NC1C)OC)NC(OC1=CC=CC=C1)=S | C16H16N2O3S
reactant | 1-(3,5-dimethylphenyl)piperazine | CC=1C=C(C=C(C1)C)N1CCNCC1 | C12H18N2
product | 1-[(5-Acetyl-2-methoxy-6-methylpyridin-3-yl)aminothiocarbonyl]-4-(3,5-dimethylphenyl)piperazine | yield: 75% | C(C)(=O)C=1C=C(C(=NC1C)OC)NC(=S)N1CCN(CC1)C1=CC(=CC(=C1)C)C | C22H28N4O2S
